data/mechanism_extracts/CCSChem/10.31635_ccschem.021.202100826.json
{"doi": "10.31635_ccschem.021.202100826", "journal": "CCSChem", "is_review": false, "rxn_class_summary": "Electrochemical aziridination of alkenes with ammonia to give NH-aziridines, with solvent-controlled chemoselectivity (MeOH favors aziridination over NH3 oxidation/N2 formation seen in DMF)", "mechanism_family": ["radical_cation", "radical_anodic", "direct_SET"], "electrochemical_role": "Anodic oxidation of the alkene (e.g., triphenylethene 1v) to its radical cation, followed by nucleophilic addition of NH3 and a second anodic oxidation of the resulting aminyl radical to a nitrogen-centered cation that closes to the aziridine; in MeOH, hydrogen-bond donation by solvent raises Eox(NH3), suppressing competing NH3 oxidation", "key_intermediates": [{"name": "alkene radical cation (1v•+, triphenylethene radical cation)", "smiles": "[CH+]([C](c1ccccc1)c2ccccc2)c3ccccc3", "role": "reactive"}, {"name": "β-ammonio carbon radical (Int2-a, NH3 adduct of radical cation, after deprotonation)", "smiles": "[CH]([C](N)(c1ccccc1)c2ccccc2)c3ccccc3", "role": "transient"}, {"name": "β-amino carbon radical (Int3-a, neutral aminyl/C-radical)", "smiles": null, "role": "transient"}, {"name": "β-amino carbocation (Int4-a, after second oxidation)", "smiles": null, "role": "reactive"}, {"name": "protonated aziridinium (Int5-a)", "smiles": null, "role": "transient"}, {"name": "NH3 radical cation (NH3•+)", "smiles": "[NH3+]", "role": "off_pathway"}], "electron_flow": "Anode oxidizes the alkene to a radical cation (Eox = 6.64 eV); NH3 nucleophilically adds to the less-substituted carbon (TS1-a, 8.7 kcal/mol), and the adduct is deprotonated to a neutral β-amino C-radical; a second anodic oxidation (Eox = 5.72 eV) gives a β-amino carbocation that undergoes near-barrierless ring closure to the aziridinium, which is deprotonated to the NH-aziridine. In DMF the competing pathway is direct anodic oxidation of NH3 to NH3•+ leading to N2/H2 formation.", "rate_determining_step": "Nucleophilic addition of NH3 to the alkene radical cation via TS1-a (ΔG‡ ≈ 8.7 kcal/mol in MeOH)", "probe_reagents": [{"name": "triphenylethene (1v) as model substrate", "smiles": "C(=C(c1ccccc1)c2ccccc2)c3ccccc3", "purpose": "redox_probe", "observation": "Greatest contrast between MeOH (aziridination) and DMF (hydrogenation/N2 formation), used to probe solvent-dependent chemoselectivity"}, {"name": "Ammonia (NH3)", "smiles": "N", "purpose": "redox_probe", "observation": "CV shows NH3 is oxidized preferentially in DMF but 1v is oxidized prior to NH3 in MeOH, indicating MeOH H-bonding stabilizes NH3 lone pair"}], "evidence_types_used": ["cyclic_voltammetry", "DFT", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Two solvent-dependent pathways are computed: in MeOH, NH3 addition to 1v•+ (TS1-a, 8.7 kcal/mol) outcompetes endergonic NH3 oxidation (+17.9 kcal/mol), leading to aziridine; in DMF, NH3•+ formation is only +3.6 kcal/mol and leads to barrierless deprotonation/hydrazine/N2 formation (N2 hydrogenation pathway), explaining loss of aziridination selectivity. The MeOH selectivity is rationalized by Kamlet–Taft α (H-bond donor) parameter (α=0.98 vs 0 for DMF). Tetraphenyl aziridine 2u structure confirmed by X-ray."}
